### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus/LHopital): L'Hopital's rule from within a convex set

### PR DESCRIPTION
**Pull request by peakpoint**
Extracted from #19796

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Topology.lean [hunk 1]
```diff
@@ -382,8 +382,43 @@ end ContinuousSMul
...
 
-variable {𝕜 : Type*} [Field 𝕜] [LinearOrder 𝕜] [IsStrictOrderedRing 𝕜]
-  [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+variable {𝕜 : Type*} [LinearOrder 𝕜] [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+
+open scoped Topology
+open Filter
+
+lemma nhdsWithin_diff_singleton_of_subsingleton {a : 𝕜} {s : Set 𝕜} (hs : s.Subsingleton) :
+    𝓝[s \ {a}] a = ⊥ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: This is effectively saying that `¬ AccPt a (𝓟 s)`. There's the general fact, which I *think* we don't yet have, that in a `T1Space`, `AccPt a (𝓟 s) → s.Infinite` (you build a sequence of distinct points by induction by taking a punctured neighborhood of `a` which does not contain any of the previous points in the sequence). Then your statement would be a special case of the contrapositive of this one.

Would you mind please adding these statements in another PR and then using them here?

File: Mathlib/Analysis/Convex/Topology.lean [hunk 2]
```diff
@@ -382,8 +382,43 @@ end ContinuousSMul
 
 section LinearOrderedField
 
-variable {𝕜 : Type*} [Field 𝕜] [LinearOrder 𝕜] [IsStrictOrderedRing 𝕜]
-  [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+variable {𝕜 : Type*} [LinearOrder 𝕜] [TopologicalSpace 𝕜] [OrderTopology 𝕜]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: I think these hypotheses are far too specific.

File: Mathlib/Analysis/Convex/Topology.lean [hunk 3]
```diff
@@ -382,8 +382,43 @@ end ContinuousSMul
...
+    notMem_closure_iff_nhdsWithin_eq_bot.1 has]
+  rcases Nonempty.of_closure ⟨a, has⟩ with ⟨a', ha'⟩
+  have h : s = {a'} := (subsingleton_iff_singleton ha').mp hs
+  subst h
+  simp only [finite_singleton, Finite.isClosed, IsClosed.closure_eq, mem_singleton_iff] at has
+  simp [has]
+
+lemma eventually_nhdsNE_of_closure {p : 𝕜 → Prop} {s : Set 𝕜} (a : 𝕜)
+    (h : s.Nontrivial → a ∈ closure s → ∀ᶠ x in 𝓝[s \ {a}] a, p x) :
+    ∀ᶠ x in 𝓝[s \ {a}] a, p x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: This seems rather a strange statement. Under what circumstances is this applicable? Also, this would follow easily from the result I mentioned before. Either `¬ AccPt a (𝓟 s)` in which case this follows from `Filter.eventually_bot`, or `AccPt a (𝓟 s)` in which case `s.Nontrivial` follows from the fact that `s.Infinite` and `a ∈ closure s` follows from `AccPt.clusterPoint`.

File: Mathlib/Analysis/Convex/Topology.lean [hunk 4]
```diff
@@ -382,8 +382,43 @@ end ContinuousSMul
...
+  | inl hs =>
+    simp only [subsingleton_coe] at hs
+    simp [nhdsWithin_diff_singleton_of_subsingleton hs]
+  | inr hs =>
+    simp only [nontrivial_coe_sort] at hs
+    exact h hs has
+
+lemma tendsto_nhdsNE_of_closure {s : Set 𝕜} (a : 𝕜) {f : 𝕜 → ℝ} {l : Filter ℝ}
+    (h : s.Nontrivial → a ∈ closure s → Tendsto f (𝓝[s \ {a}] a) l) :
+    Tendsto f (𝓝[s \ {a}] a) l := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: This seems overly specialized. I don't think we want this lemma.

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 5]
```diff
@@ -65,18 +65,30 @@ instance decidableMemIci [Decidable (a ≤ x)] : Decidable (x ∈ Ici a) := by a
 
 instance decidableMemIoi [Decidable (a < x)] : Decidable (x ∈ Ioi a) := by assumption
 
+theorem left_not_mem_Ioo : a ∉ Ioo a b := by simp
+
+@[deprecated left_not_mem_Ioo (since := "2025-11-08")]
 theorem left_mem_Ioo : a ∈ Ioo a b ↔ False := by simp
```
Comment (j-loreaux) [inline Mathlib/Order/Interval/Set/Basic.lean]: I don't think we want to be doing this. The `left_mem_Ioo` version is good to use in a `simp` call. And note that your new lemma is one character long than the existing spelling of the same thing: `left_mem_Ioo.mp`.

**Review by j-loreaux — COMMENTED** [review]
I think this is reasonable, but there are a few issues to sort out first.

File: Mathlib/Analysis/Convex/Topology.lean (hunk 1 above)
Comment (peakpoint) [reply Mathlib/Analysis/Convex/Topology.lean]: This should follow from the stuff in `Topology/DiscreteSubset` so I'll add it there in another PR

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 5 above)
Comment (peakpoint) [reply Mathlib/Order/Interval/Set/Basic.lean]: Sure, I've reverted these changes

File: Mathlib/Analysis/Convex/Topology.lean (hunk 1 above)
Comment (peakpoint) [reply Mathlib/Analysis/Convex/Topology.lean]: Actually, I've found that none of these lemmas were necessary so they've all been removed. I'll still open a separate PR for the result about `AccPt` though

File: Mathlib/Analysis/Convex/Topology.lean [hunk 6]
```diff
@@ -386,8 +386,11 @@ end ContinuousSMul
 
 section LinearOrderedField
 
-variable {𝕜 : Type*} [Field 𝕜] [LinearOrder 𝕜] [IsStrictOrderedRing 𝕜]
-  [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+variable {𝕜 : Type*} [LinearOrder 𝕜] [TopologicalSpace 𝕜] [OrderTopology 𝕜]
+  [Field 𝕜] [IsStrictOrderedRing 𝕜]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: Since these are now the same as they were, please revert to the original ordering to reduce the diff, as it's just noise.

File: Mathlib/Analysis/Convex/Topology.lean [hunk 7]
```diff
@@ -402,4 +405,75 @@ theorem Convex.nontrivial_iff_nonempty_interior {s : Set 𝕜} (hs : Convex 𝕜
...
+    have : Ioo b a ⊆ s := hs.Ioo_subset_of_mem_closure (subset_closure hbs) has
+    apply eventually_of_mem (U := Ioo b a) ?_ fun x hx ↦ ?_
+    · exact mem_nhdsWithin.2 ⟨Ioi b, isOpen_Ioi, hba, fun _ ⟨h₁, _, h₂⟩ ↦ ⟨h₁, h₂⟩⟩
+    · exact mem_nhds_iff.2 ⟨Ioo b a, subset_diff_singleton this right_mem_Ioo.mp, isOpen_Ioo, hx⟩
+  · rcases eq_empty_or_nonempty (s ∩ Ioi a) with hs' | ⟨b, hbs, hab⟩
+    · simp [hs']
+    have : Ioo a b ⊆ s := hs.Ioo_subset_of_mem_closure has (subset_closure hbs)
+    apply eventually_of_mem (U := Ioo a b) ?_ fun x hx ↦ ?_
+    · exact mem_nhdsWithin.2 ⟨Iio b, isOpen_Iio, hab, fun _ ⟨h₁, _, h₂⟩ ↦ ⟨h₂, h₁⟩⟩
+    · exact mem_nhds_iff.2 ⟨Ioo a b, subset_diff_singleton this left_mem_Ioo.mp, isOpen_Ioo, hx⟩
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/Topology.lean]: I wish there were an easy way to avoid this duplication, but I didn't see it. If you think of it, please do it. Otherwise, don't worry about it.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Convex/Topology.lean (hunk 7 above)
Comment (peakpoint) [reply Mathlib/Analysis/Convex/Topology.lean]: How does the latest revision look?

Comment (peakpoint) [reply Mathlib/Analysis/Convex/Topology.lean]: I'll just go with what I did to avoid duplication. Oddly enough, the file length stayed the same
